US07728018B2
2,2-Diethyl-propane-1,3-diamine
A suspension of LiAlH4 (4.66 g) in dry Et2O (100 mL) was cooled in an ice bath, and a solution of 2,2-diethyl-malononitrile (5.0 g) in Et2O (50 mL) was added dropwise at such a rate that the temperature was kept below 20° C. The mixture was stirred overnight at room temperature, cooled in an ice bath, and quenched by adding H2O (5 mL), 2M aqueous NaOH (10 mL) and again H2O (5 mL). The suspension was filtered, the filter cake was washed with Et2O, and the combined filtrates were evaporated to dryness under reduced pressure to give 5.0 g of a clear, light-yellow liquid. 1H NMR (400 MHz, CDCl3) δ 0.80 (t, J=8 Hz, 6H), 1.08 (br s, 4H), 1.22 (q, J=8 Hz, 4H), 2.52 (s, 4H).

reactant | LiAlH4 | 4.66 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2,2-diethyl-malononitrile | 5.0 g | C(C)C(C#N)(C#N)CC | C7H10N2
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 2,2-Diethyl-propane-1,3-diamine | C(C)C(CN)(CN)CC | C7H18N2
